US06531476B1
2.44 g (6.43 mmol) of 1,4-dibenzyl-2-tert-butylcarbonylaminomethylpiperazine are dissolved in 50 ml of ethanol and 1 ml of 12N HCl in a 100-ml ground-necked round-bottomed flask. About 100 mg of palladium (10%) on charcoal are added thereto. The mixture is then placed under a hydrogen atmosphere, stirred vigorously and heated gently (40° C.) for 3 hours. The suspension is filtered on paper and the catalyst is rinsed several times with ethanol and water. The solvents are evaporated off to give 1.2 g of 2-tert-butylcarbonylaminomethylpiperazine hydrochloride. Yield: 68.6%. Melting point: 278.6° C. Rf=0.13 (80/20/[lacuna] v/v/v CHCl3/MeOH/NH4)OH).

reactant | 1,4-dibenzyl-2-tert-butylcarbonylaminomethylpiperazine | 6.43 mmol, 2.44 g | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)CNC(=O)C(C)(C)C | C24H33N3O
reactant | HCl | 12N, 1 ml | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium | 100 mg | [Pd] | Pd
product | 2-tert-butylcarbonylaminomethylpiperazine hydrochloride | 1.2 g, Yield: 68.6% | Cl.C(C)(C)(C)C(=O)NCC1NCCNC1 | InChI=1S/C10H21N3O.ClH/c1-10(2,3)9(14)13-7-8-6-11-4-5-12-8;/h8,11-12H,4-7H2,1-3H3,(H,13,14);1H
